US05164402
Reaction of benzylamine with 5-bromopent-2-ene gives 5-benzylamino-2-pentene, which can be condensed with the half-ester of malonic acid, as described in Section XXVIII. Subsequent diazo transfer and cycloaddition, according to Section XXVIII, provides ethyl 3-benzyloxycarbonyl-7-methyl-2-oxo-3-azabicyclo[4.1.0]heptane-1-carboxylate. Processing of this compound as in Section XXXVIII provides the desired trisubstituted compound.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-bromopent-2-ene | BrCCC=CC | C5H9Br
product | 5-benzylamino-2-pentene | C(C1=CC=CC=C1)NCCC=CC | C12H17N
